US06248765B1
5 mmol of 3-(1H-imidazol-4-yl)propanol.
HCl and 5 mmol of 2-phenylpropyl isocyanate (freshly prepared from 2-phenylpropylamine and diphosgene in ethyl acetate (Japan Kokai Tokkyo Koho JP, 60, 162, 262 (05.07.1985): Chem. Abstr. 103, 215012) are treated as described in Example 1.

reactant | HCl | Cl | ClH
reactant | 2-phenylpropyl isocyanate | 5 mmol | C1(=CC=CC=C1)C(CN=C=O)C | C10H11NO
reactant | 2-phenylpropylamine | C1(=CC=CC=C1)C(CN)C | C9H13N
reactant | diphosgene | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(1H-imidazol-4-yl)propanol | N1C=NC(=C1)CCCO | C6H10N2O
